US05089050
Preparation of 3-tert-butyl-4-hydroxybenzoic acid
50.0 g of 4-acetoxy-3-tert-butylbenzoic acid are dissolved in 200 g of methanol. A solution of 10.2 g of sodium hydroxide in 180 ml of water is added. The mixture is refluxed for 3 hours. The methanol is removed, and the mixture is acidified with hydrochloric acid (10%) at 10° C. The precipitate is filtered off and washed, giving 40.6 g of product in the form of colourless crystals having a melting point of from 158° to 159° C.

reactant | 4-acetoxy-3-tert-butylbenzoic acid | 50.0 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)C(C)(C)C | C13H16O4
reactant | sodium hydroxide | 10.2 g | [OH-].[Na+]
solvent | methanol | 200 g | CO | CH4O
solvent | water | 180 ml | O | H2O
product | 3-tert-butyl-4-hydroxybenzoic acid | 40.6 g | C(C)(C)(C)C=1C=C(C(=O)O)C=CC1O | C11H14O3
